US08044068B2
A mixture of 5,7-dichlorothieno[3,2-b]pyridine (0.52 g), triethylamine (0.90 mL), 4-(methylsulfonyl)piperidine mono hydrochloride (0.62 g), and ethylene glycol (1.1 mL) was stirred at 120° C. for 6 h. Ethylene glycol (4.0 mL) and 1,4-dioxane (4.0 mL) were added, and the mixture was further stirred at room temperature for 16 h. The reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, and then silica gel was added to the organic layer. Silica gel and the desiccant were removed by filtration, the filtrate was concentrated under reduced pressure, and the resulting solids were washed with a mixture solution of ethyl acetate and diisopropyl ether. The resulting solids were purified by silica gel column chromatography (ethyl acetate/hexane=1:1-1:0) to obtain 5-chloro-7-(4-(methylsulfonyl)piperidin-1-yl)thieno[3,2-b]pyridine (0.11 g). (2) To a mixture of 5-chloro-7-(4-(methylsulfonyl)piperidin-1-yl)thieno[3,2-b]pyridine (0.11 g), Pd2(dba)3 (0.016 g), (±)-BINAP (0.032 g), 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (0.13 g), and 1,4-dioxane (2.2 mL) was added sodium t-butoxide (0.099 g) under nitrogen atmosphere, and the mixture was stirred at room temperature for 20 h. The mixture was further stirred at 70° C. for 2 h and 30 min. The reaction mixture was diluted with ethyl acetate and water, and then the organic layer was washed with water. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=2:1−ethyl acetate/methanol=10:1, and silica gel, chloroform/methanol=50:1-10:1) to obtain colorless amorphous (S)-1-(3-(7-(4-methylsulfonylpiperidin-1-yl)thieno[3,2-b]pyridin-5-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.074 g).

reactant | 5,7-dichlorothieno[3,2-b]pyridine | 0.52 g | ClC1=CC(=C2C(=N1)C=CS2)Cl | C7H3Cl2NS
reactant | triethylamine | 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(methylsulfonyl)piperidine mono hydrochloride | 0.62 g | Cl.CS(=O)(=O)C1CCNCC1
reactant | ethylene glycol | 1.1 mL | C(CO)O | C2H6O2
reactant | Ethylene glycol | 4.0 mL | C(CO)O | C2H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | 5-chloro-7-(4-(methylsulfonyl)piperidin-1-yl)thieno[3,2-b]pyridine | 0.11 g | ClC1=CC(=C2C(=N1)C=CS2)N2CCC(CC2)S(=O)(=O)C | C13H15ClN2O2S2
